US09145356B2
4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoyl chloride
4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoic acid (52.00 g, 0.0912 mol) as prepared in Example 12 and thionyl chloride (365 g, 3.09 mol) were place in an oven dried RB flask equipped with a stirrer, reflux condenser and under nitrogen. The reaction was placed in an oil bath and heated to a gentle reflux overnight. The content was analyzed by proton NMR and shown to be 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoyl chloride.

reactant | 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoic acid | 0.0912 mol, 52.00 g | FC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(OC1=CC=C(C(=O)O)C=C1)F | C15H6F16O5
reactant | thionyl chloride | 3.09 mol, 365 g | S(=O)(Cl)Cl | Cl2OS
product | 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoyl chloride | FC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(OC1=CC=C(C(=O)Cl)C=C1)F | C15H5ClF16O4
